US03932465
A solution of 0.317 g of 3-(4-methoxy-1-naphthylmethyl)-7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid 2,2,2-trichloroethyl ester 1-oxide in 10 ml of a 9:1-mixture of tetramethylenesulphone and acetonitrile is treated with 0.250 g of sodium dithionite. The mixture is cooled to 0° and agitated in an ultrasonics bath, then treated with 0.275 g of acetic acid chloride. The mixture is allowed to react for 30 minutes and an equal amount of acetic acid chloride is again added. After a further 30 minutes, the reaction mixture is poured out onto a 5% aqueous sodium hydrogen carbonate solution. After extraction with diethyl ester, the combined organic extracts are washed with water and a saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated under reduced pressure. The residue is chromatographed on 10 g of silica gel, elution being carried out with methylene chloride and fractions of 50 ml being taken. Fractions 3 and 4 yield the 3-(4-methoxy-1-naphthylmethyl)-7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid 2,2,2-trichloroethyl ester, which after crystallisation from a mixture of ethyl acetate and diethyl ether melts at 164°-165°; thin-layer chromatogram (silica gel): Rf = 0.73 (system: toluene/ethyl acetate 1:1) and Rf = 0.59 (system: toluene/acetone 4:1); infrared absorption spectrum (in mineral oil): characteristic bands at 2,99μ, 5,63μ, 5,75μ, 5,99μ, 6,12μ, 6,29μ and 6,53μ.

reactant | 3-(4-methoxy-1-naphthylmethyl)-7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid 2,2,2-trichloroethyl ester 1-oxide | 0.317 g | ClC(COC(=O)C1=C(C(S([C@H]2N1C([C@H]2C(CC2=CC=CC=C2)=O)=O)=O)N)CC2=CC=C(C1=CC=CC=C21)OC)(Cl)Cl | C29H25Cl3N2O6S
reactant | tetramethylenesulphone | C1CCCS1(=O)=O | C4H8O2S
reactant | sodium dithionite | 0.250 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetic acid chloride | 0.275 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(4-methoxy-1-naphthylmethyl)-7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid 2,2,2-trichloroethyl ester | ClC(COC(=O)C1=C(C(S[C@H]2N1C([C@H]2C(CC2=CC=CC=C2)=O)=O)N)CC2=CC=C(C1=CC=CC=C21)OC)(Cl)Cl | C29H25Cl3N2O5S
